US06291475B1
(a) 4-tert-Butyl-1-(2-oxiranylmethoxy)benzene
A mixture of epichlorohydrin (15.3 g; 0.165 mol), 4-tert-butylphenol (5.0 g; 0.033 mol) and potassium carbonate (6.9 g; 0.050 mol) in acetonitrile (50 mL) was refluxed for 5 h. The resulting heterogeneous mixture was cooled to below reflux temperature and vacuum filtered through fritted glass. The organics were concentrated to give the crude product (7.9 g) as a liquid. Flash chromatography on silica gel (CH2Cl2:EtOAc; 19:1) gave the desired product (5.2 g; 76%) as a liquid.

reactant | epichlorohydrin | 0.165 mol, 15.3 g | C(Cl)C1CO1 | C3H5ClO
reactant | 4-tert-butylphenol | 0.033 mol, 5.0 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | potassium carbonate | 0.050 mol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-tert-Butyl-1-(2-oxiranylmethoxy)benzene | 5.2 g, 76% | C(C)(C)(C)C1=CC=C(C=C1)OCC1OC1 | C13H18O2
